US07951794B2
Over a period of 20 min a solution of SnCl4 (60.9 g, 234 mmol) in hexane (20 mL) is added to a solution of 2-ethylthiophene (25 g, 223 mmol) and acetylchloride (18.4 g, 234 mmol) in hexane (80 mL). Evolving HCl gas is trapped in a NaOH solution. Evolution of HCl stops when about half of the SnCl4 solution is added. The black viscous mixture is warmed to 100° C. for 30 min, before it is cooled again to rt. The mixture is poured into ice/water (600 mL), extracted with diethyl ether (3×) and the combined etheral extracts are washed with NaOH (1M), sat. NaHCO3 solution and brine, dried over MgSO4, filtered and evaporated. The crude 1-(5-ethyl-thiophen-2-yl)-ethanone (35 g) is added to a solution of sodium acetate (16.0 g, 195 mmol) in water (160 mL) and the resulting emulsion is stirred vigorously. To this emulsion bromine (28.5 g, 178 mmol) is added dropwise over a period of 25 min. Upon complete addition of the bromine, sodium acetate (60 g, 731 mmol) is added and the pH of the mixture is adjusted to 9 by adding 10 M aq. NaOH solution. A further portion of bromine (12.4 g, 78 mmol) is added and stirring is continued for 15 min. The reaction is quenched by adding 1 M aq. Na2S2O3 solution and the mixture is extracted three times with diethyl ether. The organic extracts are washed with 1 N aq. NaOH, 2 N aq. HCl and brine, dried over MgSO4, filtered and evaporated to give 1-(4-bromo-5-ethyl-thiophen-2-yl)-ethanone (38 g) as a brown oil; LC-MS: tR=0.97 min, [M+1+CH3CN]+=274.20.

reactant | SnCl4 | 234 mmol, 60.9 g | Cl[Sn](Cl)(Cl)Cl
reactant | 2-ethylthiophene | 223 mmol, 25 g | C(C)C=1SC=CC1 | C6H8S
reactant | acetylchloride | 234 mmol, 18.4 g | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | 1-(5-ethyl-thiophen-2-yl)-ethanone | 35 g | C(C)C1=CC=C(S1)C(C)=O | C8H10OS
reactant | sodium acetate | 195 mmol, 16.0 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 178 mmol, 28.5 g | BrBr | Br2
reactant | sodium acetate | 731 mmol, 60 g | C(C)(=O)[O-].[Na+]
reactant | NaOH | 10 M | [OH-].[Na+]
reactant | bromine | 78 mmol, 12.4 g | BrBr | Br2
solvent | hexane | 20 mL | CCCCCC | C6H14
solvent | hexane | 80 mL | CCCCCC | C6H14
solvent | water | 160 mL | O | H2O
product | 1-(4-bromo-5-ethyl-thiophen-2-yl)-ethanone | 38 g | BrC=1C=C(SC1CC)C(C)=O | C8H9BrOS
